US05830386
In a two-necked round-bottomed flask, 98 mg (0.52 mM) of methyl (S)-3-fluorononanoate and 1 ml of acetic acid were placed. To the mixture, 1 ml of concentrated hydrochloric acid was added, followed by stirring for 4 hours at 90° C. After the reaction, ice water was added to the reaction mixture, followed by extraction with Et2O. The organic layer was sufficiently washed with distilled water and dried with anhydrous magnesium sulfate, followed by distilling-off of the solvent under reduced pressure to obtain 78 mg (0.44 mM) of (S)-3-fluorononanoic acid.

reactant | methyl (S)-3-fluorononanoate | 0.52 mM, 98 mg | F[C@H](CC(=O)OC)CCCCCC | C10H19FO2
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | (S)-3-fluorononanoic acid | 0.44 mM, 78 mg | F[C@H](CC(=O)O)CCCCCC | C9H17FO2
